US03966954
Preparation of 1,3-Dicyclohexyl-1,3-propanedione
Other β-diketones can be prepared from esters and ketones containing R3 and R5 as previously defined. Thus, 1-cyclopropyl-3-phenyl-1,3-propanedione has been reported by G. W. Cannon et al., Journal of Organic Chemistry 17, 685 (1952) to be prepared as a solid, melting point 36°C to 37°C, from ethyl benzoate and cyclopropyl methylketone in the presence of sodium amide. Alternatively, it has been found that the same compound, melting point 38°C to 40°C, could be prepared from ethyl cyclopropanecarboxylate, acetophenone and sodium hydride. J. T. Adams and C. R. Hauser in Journal of the American Chemical Society 66, 1220 (1944) have prepared a series of 1-alkyl-3-phenyl-1,3-propanediones from carboxylic acid ethyl esters and acetophenone in the presence of sodium amide. Illustrative examples are tabulated employing the following equation: ##EQU2## where R3 and R5 are set forth in the Table I below.

reactant | 1-cyclopropyl-3-phenyl-1,3-propanedione | C1(CC1)C(CC(=O)C1=CC=CC=C1)=O | C12H12O2
reactant | ethyl benzoate | C(C1=CC=CC=C1)(=O)OCC | C9H10O2
reactant | cyclopropyl methylketone | C1(CC1)C(=O)C | C5H8O
reactant | sodium amide | [NH2-].[Na+]
reactant | ethyl cyclopropanecarboxylate | C1(CC1)C(=O)OCC | C6H10O2
reactant | acetophenone | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | sodium hydride | [H-].[Na+]
product | 1,3-Dicyclohexyl-1,3-propanedione | C1(CCCCC1)C(CC(=O)C1CCCCC1)=O | C15H24O2
